US05155268
N-[4-[2-(Ethylheptylamino)ethyl]phenyl]methanesulfonamide, Chart IV; Step III
A solution of 5.45 g (0.0207 mol) of N-[2-(4-aminophenyl)ethyl]-N-ethyl-N-heptylamine from Preparation 20 in 22 ml of dry pyridine, under nitrogen, is cooled in an ice bath and treated dropwise with 1.90 ml (2.81 g, 0.0245 mol) of methanesulfonyl chloride over 10 min. The mixture is stirred for 30 min in the cold, for 2.5 hrs at room temperature and set overnight at room temperature. The solvent is azeotroped in vacuo with toluene and the residue treated with ice water. Aqueous NaHCO3 is added to give a mixture of pH 9 which is extracted with EtOAc (4×250 ml). The pooled extract is washed with brine, dried (NaHCO3) and concentrated in vacuo. The residue is chromatographed over 2100 ml of silica gel with 0.5% NH4OH/5% MeOH/CHCl3 (2000 ml), then 0.75% NH4OH/7.5% MeOH/CHCl3 (2000 ml) and finally 1.0% NH4OH/10% MeOH/CHCl3 ; 42 ml fractions are taken. Fractions at approximately 110-136 give the title compound which is identical as that prepared in Example 3 above.

reactant | N-[2-(4-aminophenyl)ethyl]-N-ethyl-N-heptylamine | 0.0207 mol, 5.45 g | NC1=CC=C(C=C1)CCN(CCCCCCC)CC | C17H30N2
reactant | methanesulfonyl chloride | 0.0245 mol, 1.90 ml, 2.81 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 22 ml | N1=CC=CC=C1 | C5H5N
product | N-[4-[2-(Ethylheptylamino)ethyl]phenyl]methanesulfonamide | C(C)N(CCC1=CC=C(C=C1)NS(=O)(=O)C)CCCCCCC | C18H32N2O2S
